US05510538
A solution of 21-acetoxy-17,20-dihydroxy-pregn-4-en-3,11-dione (730 mg, 1.81 mmol) and o-iodoxybenzoic acid I (1 g, 3.57 mmol) in DMSO (7 ml) was stirred at 50° C. for 3 h. The solution was then diluted with water (10 ml), stirred for 10 min, filtered and extracted with ethyl acetate (3×10 ml). The combined organic layers were washed with brine and dried over sodium sulfate. The organic solvent was distilled under vacuum. The residue was crystallised from ethanol to give 676 mg (93%) of cortisone acetate, mp 238°-240° C. (lit. 238°-240° C.)

reactant | 21-acetoxy-17,20-dihydroxy-pregn-4-en-3,11-dione | 1.81 mmol, 730 mg | C(C)(=O)OCC([C@]1(CC[C@H]2[C@@H]3CCC4=CC(CC[C@]4(C)[C@H]3C(C[C@]12C)=O)=O)O)O | C23H32O6
reactant | o-iodoxybenzoic acid | I(=O)(=O)C1=C(C(=O)O)C=CC=C1 | C7H5IO4
solvent | DMSO | 7 ml | CS(=O)C | C2H6OS
solvent | water | 10 ml | O | H2O
product | cortisone acetate | 676 mg, 93% | CC(=O)OCC(=O)[C@]1(CC[C@@H]2[C@@]1(CC(=O)[C@H]3[C@H]2CCC4=CC(=O)CC[C@]34C)C)O | C23H30O6
